US07553854B2
Step 4. Synthesis of 4-(2-(cyclohexylmethylamino)-5-fluorobenzo[d]thiazol-6-yloxy)-N-methylpicolinamide
To the solution of 2-(cyclohexylmethylamino)-5-fluorobenzo[d]thiazol-6-ol (25 mg, 0.089 mmol, 1.0 eq) in 2 mL of NMP was added 4-chloro-N-methylpicolinamide (18 mg, 0.107 mmol, 1.2 eq) and cesium carbonate (86 mg, 0.267 mmol, 3.0 eq) at room temperature. The reaction mixture was stirred at 85° C. for 12 hours, thereafter the mixture was purified on reverse phase HPLC giving 1.6 mg of product as TFA salt in ca. 3.5% yield. LC/MS (m/z) [415.1] (MH+)

reactant | 2-(cyclohexylmethylamino)-5-fluorobenzo[d]thiazol-6-ol | 0.089 mmol, 25 mg, 1.0 eq | C1(CCCCC1)CNC=1SC2=C(N1)C=C(C(=C2)O)F | C14H17FN2OS
reactant | 4-chloro-N-methylpicolinamide | 0.107 mmol, 18 mg, 1.2 eq | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | cesium carbonate | 0.267 mmol, 86 mg, 3.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 4-(2-(cyclohexylmethylamino)-5-fluorobenzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 1.6 mg, ca. 3.5% yield | C1(CCCCC1)CNC=1SC2=C(N1)C=C(C(=C2)OC2=CC(=NC=C2)C(=O)NC)F | C21H23FN4O2S
